US08563617B2
201.2 N-{3-[7-Amino-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide hydrochloride
tert-Butyl [1-(4-chlorobenzyl)-7-{3-[(propylsulfonyl)amino]propyl}-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (150 mg, 0.281 mmol) was dissolved in dichloromethane (3 mL) and a solution of hydrochloric acid (0.5 mL, 5 M in isopropanol) was added. After stirring at room temperature for 2 hours the solvent was removed in vacuo. Water was added (15 mL) and the pH was adjusted to 9 with aqueous saturated sodium bicarbonate and the mixture was extracted with dichloromethane (3×15 mL). The combined organic extracts were dried and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). The product was dissolved in dichloromethane (2 mL) and a solution of hydrochloric acid in ethanol (1.25 M) was added. The solvent was removed in vacuo. Yield: 31.4 mg (0.187 mmol, 36%).

reactant | tert-Butyl [1-(4-chlorobenzyl)-7-{3-[(propylsulfonyl)amino]propyl}-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | 0.281 mmol, 150 mg | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)CCCNS(=O)(=O)CCC)NC(OC(C)(C)C)=O)C=C1 | C28H39ClN2O4S
reactant | hydrochloric acid | 5 M, 0.5 mL | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-{3-[7-Amino-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide hydrochloride | Cl.NC1CCC=2C=CC(=CC2C1CC1=CC=C(C=C1)Cl)CCCNS(=O)(=O)CCC | InChI=1S/C23H31ClN2O2S.ClH/c1-2-14-29(27,28)26-13-3-4-17-5-8-19-9-12-23(25)22(21(19)15-17)16-18-6-10-20(24)11-7-18;/h5-8,10-11,15,22-23,26H,2-4,9,12-14,16,25H2,1H3;1H
